US08975265B2
A mixture of {1-[4-(2-bromo-2-phenyl-acetyl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester [Int-1-A] (2.65 g, 5.69 mmol), 2-amino-4-cyanopyridine (1.42 g, 11.9 mmol, 2 equiv) and powdered activated 3 Å molecular sieves (10 g) in ethanol (22 mL) was heated for 4 h at the reflux temperature. The reaction mixture was cooled to room temperature, additional 2-amino-4-cyanopyridine (0.71 g, 6.0 mmol, 1 equiv) was added, and the resulting mixture was heated at the reflux temperature for 5 h. The resulting solution was separated between EtOAc (75 mL) and an saturated aqueous NaHCO3 solution (75 mL). The organic phase was washed with a saturated aqueous NaCl solution (25 mL), dried (Na2SO4 anh), and concentrated under reduced pressure. The remaining material was purified using MPLC (Biotage Isolera; 25 g SNAP cartridge: 80% hexane/20% EtOAc for 3.0 min., gradient to 70% hexane/30% EtOAc over 13.7 min.) to give {1-[4-(7-cyano-3-phenyl-imidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester (0.57 g, 21%).

reactant | {1-[4-(2-bromo-2-phenyl-acetyl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester | 5.69 mmol, 2.65 g | C(C)(C)(C)OC(NC1(CCC1)C1=CC=C(C=C1)C(C(C1=CC=CC=C1)Br)=O)=O | C23H26BrNO3
reactant | 2-amino-4-cyanopyridine | 11.9 mmol, 1.42 g, 2 equiv | NC1=NC=CC(=C1)C#N | C6H5N3
reactant | 2-amino-4-cyanopyridine | 6.0 mmol, 0.71 g, 1 equiv | NC1=NC=CC(=C1)C#N | C6H5N3
solvent | ethanol | 22 mL | C(C)O | C2H6O
product | {1-[4-(7-cyano-3-phenyl-imidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester | 0.57 g, 21% | C(C)(C)(C)OC(NC1(CCC1)C1=CC=C(C=C1)C=1N=C2N(C=CC(=C2)C#N)C1C1=CC=CC=C1)=O | C29H28N4O2
